US05310743
a) (2R*,4S*)-2-Benzyl-1-t-butyloxycarbonyl-N-(2-phenylethyl)-4-piperidinamine
1 g (3.44 mmol) of (2R*,4S*)-2-benzyl-1-t-butyloxycarbonyl-4-piperidinamine is reacted in analogy to Example 11a with 1 ml (4.48 mmol) of phenylacetaldehyde, 0.433 g (6.89 mmol) of sodium cyanoborohydride, 0.791 g (9.64 mmol) of sodium acetate and 434 μl of acetic acid to give the title compound (805 mg, 60%). TLC: methylene chloride/methanol/conc. ammonia (700:50:1) Rf =0.35, FD-MS: M+ =394.

reactant | (2R*,4S*)-2-benzyl-1-t-butyloxycarbonyl-4-piperidinamine | 3.44 mmol, 1 g | C(C1=CC=CC=C1)[C@H]1N(CC[C@@H](C1)N)C(=O)OC(C)(C)C | C17H26N2O2
reactant | phenylacetaldehyde | 4.48 mmol, 1 ml | C1(=CC=CC=C1)CC=O | C8H8O
reactant | sodium cyanoborohydride | 6.89 mmol, 0.433 g | C(#N)[BH3-].[Na+]
reactant | sodium acetate | 9.64 mmol, 0.791 g | C(C)(=O)[O-].[Na+]
solvent | acetic acid | 434 μl | C(C)(=O)O | C2H4O2
product | (2R*,4S*)-2-Benzyl-1-t-butyloxycarbonyl-N-(2-phenylethyl)-4-piperidinamine | 805 mg, 60% | C(C1=CC=CC=C1)[C@H]1N(CC[C@@H](C1)NCCC1=CC=CC=C1)C(=O)OC(C)(C)C | C25H34N2O2
